US05258356
2-Hydroxysulfonyl-5,7-dimethyl-1,8-naphthyridine
9.6 g (50 mmol) of 2-chloro-5,7-dimethyl-1,8-naphthyridine prepared in accordance with Lit.8),9) is introduced into a solution of 8.2 g (65 mmol) of sodium sulfite in 40 ml of water which has been adjusted to a pH of 7-8 with dilute aqueous hydrochloric acid. The suspension which is obtained is heated for 12 hours under reflux. After cooling, solid residues are removed from the solution and the solution itself is acidified with aqueous hydrochloric acid (pH about 1). The acidified solution is left for 12 hours at 0° to 5° C., the product crystallizing out. There is obtained 7.7 g (65%) of the title compound; m.p.: >280° C.

reactant | 2-chloro-5,7-dimethyl-1,8-naphthyridine | 50 mmol, 9.6 g | ClC1=NC2=NC(=CC(=C2C=C1)C)C | C10H9ClN2
reactant | sodium sulfite | 65 mmol, 8.2 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 2-Hydroxysulfonyl-5,7-dimethyl-1,8-naphthyridine | 7.7 g, 65% | OS(=O)(=O)C1=NC2=NC(=CC(=C2C=C1)C)C | C10H10N2O3S
